US09340495B2
The urea solution was added to the reactor followed by requisite amount of sulfuric acid and phosphoric acid. The mixture was then stirred and heated up to 40° C. The liquid isobutyraldehyde was then added slowly through the dropping funnel and no exotherm was observed and reaction was not initiated. The reaction was run at the same temperature for 30 minutes, but the white solid isobutylidene diurea product was not formed. The GC analysis did not show any significant conversion of isobutyraldehyde. Consequently, the unreacted isobutyraldehyde was ˜100%.

reactant | urea | NC(=O)N | CH4N2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
product | isobutylidene diurea | C(C(C)C)(NC(=O)N)NC(=O)N | C6H14N4O2
